### PR TITLE
Don't count pool deposits when reregistering pools

### PR DESCRIPTION
**Pull request by facundominguez**
This PR modifies updates `updateCertDeposits` so pool deposits are not counted again when reregistering a pool. This is the function used by the UTXO rule to update deposits.

The change to the function is fairly simple, but then there are a few broken proofs that are fixed in later commits.

### CODE REVIEW

File: src/Ledger/Conway/Specification/Ledger/Properties/Base.lagda.md [hunk 1]
```diff
@@ -113,6 +113,88 @@ module LEDGER-PROPS (tx : Tx) (Γ : LEnv) (s : LState) where
...
+        { Carrier = ℙ A
+        ; _≈_ = _≡ᵉ_
+        ; _≤_ = _⊆_
+        ; isPartialOrder = ⊆-PartialOrder
+        }
+      open import Relation.Binary.Reasoning.PartialOrder ⊆-Poset
+      open import Relation.Binary.Structures using (IsEquivalence)
+      module ≡ᵉA = IsEquivalence (≡ᵉ-isEquivalence {A = A})
+      open import Relation.Binary.Reasoning.Syntax
+      open ⊆-syntax _IsRelatedTo_ _IsRelatedTo_ ≤-go public
```
Comment (facundominguez) [inline src/Ledger/Conway/Specification/Ledger/Properties/Base.lagda.md]: The imports are as long as the proof. Maybe we should create a module
`Axiom.Set.Reasoning` to reexport these?

File: src/Ledger/Conway/Specification/Ledger/Properties/Base.lagda.md [hunk 2]
```diff
@@ -113,6 +113,88 @@ module LEDGER-PROPS (tx : Tx) (Γ : LEnv) (s : LState) where
...
+  _∎→ : ∀ (A : Type) → A → A
+  A ∎→ = id
+  infix 3 _∎→
+
+  _→⟨_⟩_ : ∀ (x : Type) {y z : Type} → (x → y) → (y → z) → x → z
+  _ →⟨ f ⟩ g = g ∘ f
+  infixr 2 _→⟨_⟩_
+
+  begin→ : ∀ {A B : Type} → A → (A → B) → B
+  begin→ a f = f a
```
Comment (facundominguez) [inline src/Ledger/Conway/Specification/Ledger/Properties/Base.lagda.md]: These are used in the proofs below. Do they belong here or in some more general place?

**Comment by facundominguez** [comment]
I rebased master and updated agda-sets. Maybe this is ready to merge now.
